US04146542
A suspension of 6-chloro-2,2-ethylenedioxy-1,2,3,4-tetrahydrocarbazole in 200 ml. of 1:1 acetic acid/water was heated at reflux under nitrogen for 1.5 hours. The mixture was filtered hot and the filtrate was cooled in an ice bath and again filtered. Crystallization of the solid from methylene chloride/30°-60° petroleum ether gave 5.74 g. (26% yield) of 6-chloro-1,2,3,4-tetrahydrocarbazole-2-one as a flocculent solid, mp 194°-196°.

reactant | 6-chloro-2,2-ethylenedioxy-1,2,3,4-tetrahydrocarbazole | ClC=1C=C2C=3CCC4(CC3NC2=CC1)OCCO4 | C14H14ClNO2
solvent | acetic acid water | C(C)(=O)O.O
product | 6-chloro-1,2,3,4-tetrahydrocarbazole-2-one | 26% yield | ClC=1C=C2C=3CCC(CC3NC2=CC1)=O | C12H10ClNO
